US08134013B2
2-(3,4-Dichlorophenyl)-4-(1-hydrazonoethyl)-thiophen-3-ol
2-(3,4-Dichlorophenyl)-3-hydroxy-4-(methylcarbonyl)thiophene (50 mg, 0.17 mmol) (prepared by the method disclosed in WO2004/108683) in isopropanol was stirred with hydrazine monohydrate (95 μL/0.19 mmol) at 90° C. for 1 hour, then allowed to cool to room temperature and stirred at 0° C. The precipitated solid was collected by filtration and dried to give 36 mg of the desired product (yield 69%).

reactant | 2-(3,4-Dichlorophenyl)-3-hydroxy-4-(methylcarbonyl)thiophene | 0.17 mmol, 50 mg | ClC=1C=C(C=CC1Cl)C=1SC=C(C1O)C(=O)C | C12H8Cl2O2S
reactant | hydrazine monohydrate | 0.19 mmol, 95 μL | O.NN
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-(3,4-Dichlorophenyl)-4-(1-hydrazonoethyl)-thiophen-3-ol | 36 mg, yield 69% | ClC=1C=C(C=CC1Cl)C=1SC=C(C1O)C(C)=NN | C12H10Cl2N2OS
